### ISSUE TITLE
Using split on if-then-else simplifies unrelated nested if-then-else

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#3245]
This is rather minor, but I stumbled over this while debugging #3229, and I’d like to record it as an instance of a non-finishing tactic doing possibly unexpected things on the side.

Consider this example:
```
example (b1 b2 : Bool) :
  (match b1 with
  | true => 0
  | false => (if b2 then 0 else if b2 then 42 else 0)) = 0 := by
  split
  rfl
```
Now the goal is, as expected
```
b2 b1✝: Bool
⊢ (if b2 = true then 0 else if b2 = true then 42 else 0) = 0
```
The `split` tactic split the `match`, and leaves the branch in place.

Using `if-then-else` however:
```
example (b1 b2 : Bool) :
  (if b1
  then 0
  else (if b2 then 0 else if b2 then 42 else 0)) = 0 := by
  split
  rfl
```
the goal becomes
```
b1b2: Bool
h✝: ¬b1 = true
⊢ (if b2 = true then 0 else 0) = 0
```

Note that suddenly, the totally unrelated nested `if b2` was reduced.

The problem lies is with `Lean.Meta.simpIfTarget`, which 

 * uses the if-then-else congruence theorems and
 * a discharger that looks into the hypotheses.

I wonder if it really needs to enable `ite_congr` – after all, for the `if-then-else` that was `split` the condition is already in the context, so no need for the “better” congruence rule and the standard rule should suffice?

### Versions

v4.5.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by semorrison** [comment]
I realise that I've encountered this several time.

**Comment by nomeata** [comment]
> I wonder if it really needs to enable ite_congr – after all, for the if-then-else that was split the condition is already in the context, so no need for the “better” congruence rule and the standard rule should suffice?

This is barking up the wrong tree, and seems to have incidentially be fixed by #3258.

But there is still a variant of the issue: After

```
example (b1 b2 : Bool) (h : b2 = true) :
  (if b1 then 0 else (if b2 then 0 else if b2 then 42 else 0)) = 0 := by
  split
```
we get 
```
2 goals
case inl
b1 b2 : Bool
h : b2 = true
h✝ : b1 = true
⊢ 0 = 0

case inr
b1 b2 : Bool
h : b2 = true
h✝ : ¬b1 = true
⊢ 0 = 0
```
and arguably the user did not expect any changes to `if b2`⋅


So instead of
```
private def discharge? (numIndices : Nat) (useDecide : Bool) : Simp.Discharge := fun prop => do
…
     if localDecl.index ≥ numIndices || localDecl.isAuxDecl then
```
maybe the discharger should be told exactly which assumption was introduced by `split` and use only that.

(Just noting down these thoughs, I am not sure if the issue here has any real impact.)

**Comment by keithadler** [comment]
No longer reproduces on `4.35.0-nightly-2026-09-04` or stable `4.33.1`. The unrelated nested `if b2` is now preserved:

```
case isFalse
b1 b2 : Bool
h✝ : ¬b1 = true
⊢ (if b2 = true then 0 else if b2 = true then 42 else 0) = 0
```

The reported behaviour was the `42` branch being reduced away. Suggest closing.

Triage assisted by Claude; repros run and checked manually.
